US06696437B1
a) tert-Butyl 2-(3-(N,N-diethylamino)prop-1-ylamino)-isonicotinate
1.02 g (4.77 mmol) of tert-butyl 2-chloroisonicotinate, 5 ml of 3-diethylamino-1-propylamine, 0.66 g (4.77 mmol) of potassium carbonate, a spatula tip of Cu powder and a spatula tip of 18-crown-6 were refluxed for 4 hours. Flash chromatography of the reaction mixture (toluene/tetrahydro-furan/methanol, 4/1/1+2.5% triethylamine) resulted in 0.69 g of pale brown oil.

reactant | tert-butyl 2-chloroisonicotinate | 4.77 mmol, 1.02 g | ClC=1C=C(C(=O)OC(C)(C)C)C=CN1 | C10H12ClNO2
reactant | 3-diethylamino-1-propylamine | 5 ml | C(C)N(CCCN)CC | C7H18N2
reactant | potassium carbonate | 4.77 mmol, 0.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | toluene tetrahydro-furan methanol | C1(=CC=CC=C1)C.O1CCCC1.CO
product | tert-Butyl 2-(3-(N,N-diethylamino)prop-1-ylamino)-isonicotinate | 0.69 g | C(C)N(CC)CCCNC=1C=C(C(=O)OC(C)(C)C)C=CN1 | C17H29N3O2
